US09315490B2
(1-(5-(2-Fluorophenyl)pyrimidin-2-yl)-3-(methylsulfinyl)-1H-indol-6-yl)((S)-3-methylmorpholino)methanone
T3P (50 wt % solution in ethyl acetate, 179 μl, 0.304 mmol) was added to a solution of (S)-3-methylmorpholine (46 mg, 0.456 mmol) and 1-(5-(2-fluorophenyl)pyrimidin-2-yl)-3-(methylsulfinyl)-1H-indole-6-carboxylic acid (60 mg, 0.152 mmol) in dichloromethane (3 mL) at room temperature and the mixture was stirred overnight. 1 M sodium carbonate solution (20 mL) was poured into the reaction mixture and stirring was continued for 1 h. The mixture was extracted with dichloromethane (3×) and the combined organic layers were dried over magnesium sulfate and concentrated. The residue was purified by flash chromatography [dichloromethane with 0-5% ethanol]. White foam. Yield: 68 mg (93% of theory).

reactant | T3P | 0.304 mmol, 179 μl | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | (S)-3-methylmorpholine | 0.456 mmol, 46 mg | C[C@@H]1NCCOC1 | C5H11NO
reactant | 1-(5-(2-fluorophenyl)pyrimidin-2-yl)-3-(methylsulfinyl)-1H-indole-6-carboxylic acid | 0.152 mmol, 60 mg | FC1=C(C=CC=C1)C=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)O)S(=O)C | C20H14FN3O3S
reactant | sodium carbonate | 1 M, 20 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | (1-(5-(2-Fluorophenyl)pyrimidin-2-yl)-3-(methylsulfinyl)-1H-indol-6-yl)((S)-3-methylmorpholino)methanone | FC1=C(C=CC=C1)C=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)N1[C@H](COCC1)C)S(=O)C | C25H23FN4O3S
